US06500822B2
To a solution of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine prepared as described in Example 1 (800 mg, 3.3 mmol, 1 eq) in 1,2-dichlororethane (40 mL) under inert atmosphere was added 5-oxo-4-(4-oxo-butyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.0 g, 3.6 mmol, 1.1 eq.) in a single portion followed by the sodium triacetoxyborohydride (1.7 g, 8.25 mmol, 2.5 eq.). The reaction was stirred at room temperature for 20 hr, concentrated in-vacuo and then partitioned between 10% KOH (50 mL) and ethyl acetate (100 mL). The organic layer was washed with brine, dried (MgSO4) and concentrated. Purification by silica gel chromatography gave 1.1 g of 4-{4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester.

reactant | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amine | COC1=CC=C2CCC(CC2=C1)NCCC | C14H21NO
reactant | 5-oxo-4-(4-oxo-butyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 3.6 mmol, 1.0 g, 1.1 eq. | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCC=O | C14H24N2O4
reactant | sodium triacetoxyborohydride | 8.25 mmol, 1.7 g, 2.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-{4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCCN(CCC)C1CC2=CC(=CC=C2CC1)OC | C28H45N3O4
